US05352684
I. 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-[6-(4,4-diphenyl-1-piperidinyl)hexanoyl]-4-(3-nitrophenyl)-pyridine hydrochloride
9 g (20 mmol) 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(6-bromohexanoyl)4-(3-nitrophenyl) -pyridine are reacted first with 6 g (40 mmol) sodium iodide, as described for starting compound B, and then with 11 g (38 mmol) 4,4-diphenylpiperidine hydrochloride. Working up is carried out as described for starting compound B. The crude product is chromatographed with toluene/acetone=1/1. The product thus obtained is taken up in 20 ml acetonitrile. The title compound is precipitated by addition of ethereal hydrochloric acid. Yield: 4 g (31%). M.p. 136° C. decomp. (acetonitrile).

reactant | 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(6-bromohexanoyl)4-(3-nitrophenyl) -pyridine | 20 mmol, 9 g | C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCCBr)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C21H25BrN2O4
reactant | sodium iodide | 40 mmol, 6 g | [I-].[Na+]
reactant | 4,4-diphenylpiperidine hydrochloride | 38 mmol, 11 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-[6-(4,4-diphenyl-1-piperidinyl)hexanoyl]-4-(3-nitrophenyl)-pyridine hydrochloride | Cl.C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C38H43N3O4.ClH/c1-27-35(29(3)42)37(30-14-13-19-33(26-30)41(44)45)36(28(2)39-27)34(43)20-11-6-12-23-40-24-21-38(22-25-40,31-15-7-4-8-16-31)32-17-9-5-10-18-32;/h4-5,7-10,13-19,26,37,39H,6,11-12,20-25H2,1-3H3;1H
